US08729068B2
To a mixture of 23.9 g of 3-(chlorosulfonyl)benzoyl chloride, 7.9 mL of pyridine, and 100 mL of dichloromethane was added dropwise 14 mL of 2-(trimethylsilyl)ethanol under ice-cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture was added water, followed by extraction with chloroform, and the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 29.4 g of 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate as a colorless solid.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 23.9 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | pyridine | 7.9 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | 2-(trimethylsilyl)ethanol | 14 mL | C[Si](CCO)(C)C | C5H14OSi
solvent | water | O | H2O
product | 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate | 29.4 g | ClS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C12H17ClO4SSi
